US05814631
As the starting substances, ethyl 4-chloro-2-phenoxycarbonylaminobenzoate and 4-[2-(4-phenylpiperazin-1-yl)ethyloxy)benzenesulfonamide were used and the same method was applied as in Example 36 to obtain N-{4-[2-(4-phenylpiperazin-1-yl)ethyloxy] benzenesulfonyl}-N'-(2-ethyloxycarbonyl-5-chlorophenyl)urea and to obtain from 813 mg (1.39 mmol) of N-{4-(2-(4-phenylpiperazin-1-yl)ethyloxy] benzenesulfonyl}-N'-(2-carboxy-5-chlorophenyl)urea 115 mg of the above-identified compound (yield 15.3%). Properties: colorless crystal, Melting point: 177°-179° C., PMR (δppm, DMSO-d6):2.65 (4H,t), 2.80 (2H,t), 3.13 (4H,t), 4.26 (2H,t), 6.75 (1H,t), 6.90 (2H,d), 7.12 (1H,s), 7.17-7.22 (5H,m), 7.85 (1H,d), 8.10 (2H,d), 11.59 (1H,br).

reactant | ethyl 4-chloro-2-phenoxycarbonylaminobenzoate | ClC1=CC(=C(C(=O)OCC)C=C1)NC(=O)OC1=CC=CC=C1 | C16H14ClNO4
reactant | 4-[2-(4-phenylpiperazin-1-yl)ethyloxy)benzenesulfonamide | C1(=CC=CC=C1)N1CCN(CC1)CCOC1=CC=C(C=C1)S(=O)(=O)N | C18H23N3O3S
product | N-{4-[2-(4-phenylpiperazin-1-yl)ethyloxy] benzenesulfonyl}-N'-(2-ethyloxycarbonyl-5-chlorophenyl)urea | C1(=CC=CC=C1)N1CCN(CC1)CCOC1=CC=C(C=C1)S(=O)(=O)NC(=O)NC1=C(C=CC(=C1)Cl)C(=O)OCC | C28H31ClN4O6S
